US05856529
Step 4: 2,2-Dimethyl-2,3-dihydro-benzofuran-4-methanol
2,2-Dimethyl-2,3-dihydro-benzofuran-4-carboxylic acid (8.6 g, 45 mmol) was reduced with LAH (3.41 g, 89 mmol) similar to the above procedures to give the product as a clear oil (7.35 g, 93%).

reactant | 2,2-Dimethyl-2,3-dihydro-benzofuran-4-carboxylic acid | 45 mmol, 8.6 g | CC1(OC=2C(C1)=C(C=CC2)C(=O)O)C | C11H12O3
reactant | LAH | 89 mmol, 3.41 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
product | 2,2-Dimethyl-2,3-dihydro-benzofuran-4-methanol | 7.35 g, 93% | CC1(OC=2C(C1)=C(C=CC2)CO)C | C11H14O2
